US07635701B2
2-(2,4-Dichlorophenylamino)-4-trifluoromethyl-pyrimidine-5-carboxylic acid cyclopropylmethyl-amide
In a manner similar to Reference Example 1 (c) 2-(2,4-dichlorophenylamino)-4-trifluoromethyl-pyrimidine-5-carboxylic acid (80 mg) and cyclopropylmethylamine (19 mg, ex Lancaster) afforded the title compound (58 mg).

reactant | 2-(2,4-dichlorophenylamino)-4-trifluoromethyl-pyrimidine-5-carboxylic acid | 80 mg | ClC1=C(C=CC(=C1)Cl)NC1=NC=C(C(=N1)C(F)(F)F)C(=O)O | C12H6Cl2F3N3O2
reactant | cyclopropylmethylamine | 19 mg | C1(CC1)CN | C4H9N
product | 2-(2,4-Dichlorophenylamino)-4-trifluoromethyl-pyrimidine-5-carboxylic acid cyclopropylmethyl-amide | 58 mg | C1(CC1)CNC(=O)C=1C(=NC(=NC1)NC1=C(C=C(C=C1)Cl)Cl)C(F)(F)F | C16H13Cl2F3N4O
